US07601772B2
The synthesis of 1-benzyl-3-hexadecyl imidazolium chloride (C16-bim)
103 g of 1-benzylimidazole (Aldrich) and 170 g of 1-chlorohexadecane were added into a 2000 ml three-neck round-bottom flask. A refluxing/cooling condenser was set on the left neck. A thermometer was set on the right neck. A rubber stopper was set on the middle neck. Nitrogen gas was breathed into the liquid phase through the needle from the middle neck. The reactants were mixed with vigorous stirring using a magnetic stirrer. Temperature was kept between 70° C. and 80° C. After heating up, 1-benzyl imidazole dissolved into 1-chlorohexadecane. The solution in the flask turned into red brown solution. The reaction was continued for three days. Then, the product was cooled down. The white product came out of the solution. The product was washed with ethyl acetate five times. After that, it was dried in vacuum for seven hours at about 50° C.

reactant | 1-benzylimidazole | 103 g | C(C1=CC=CC=C1)N1C=NC=C1 | C10H10N2
reactant | 1-chlorohexadecane | 170 g | ClCCCCCCCCCCCCCCCC | C16H33Cl
product | 1-benzyl-3-hexadecyl imidazolium chloride | [Cl-].C(C1=CC=CC=C1)[N+]1=CN(C=C1)CCCCCCCCCCCCCCCC | InChI=1S/C26H43N2.ClH/c1-2-3-4-5-6-7-8-9-10-11-12-13-14-18-21-27-22-23-28(25-27)24-26-19-16-15-17-20-26;/h15-17,19-20,22-23,25H,2-14,18,21,24H2,1H3;1H/q+1;/p-1
